US03987186
2-Carboxy-4-oxo-6,6,11-trimethyl-4H,6H-[2]-benzopyrano-[3,4-f]-[1]-benzopyran by method A
A solution of 1.2 gm (4.3 millimols) of 1-methyl-3-hydroxy-4-acetyl-6,6-dimethyl-6H-dibenzo-[b,d]-pyran and 1.2 gm (8.3 millimols) of diethyl oxalate in 10 ml of ethanol was poured at 40° C into a solution of 1.03 gm (45 millimols) of sodium in 20 ml of ethanol. The mixture was refluxed for 1 hour, cooled to 10° C and acidified with 2 N hydrochloric acid. The raw reaction product was extracted twice with 15 ml of ether each, the combined extracts were dried, and the solvent was evaporated. The orange residue was refluxed for 13/4hours in 18.2 ml of a mixture of acetic acid and hydrochloric acid (1.2 : 1), the reaction mixture was then cooled, and the precipitate formed thereby was recrystallized from ethanol. 1.1 gm (77% of theory) of the compound named in the heading, m.p. 231°-232° C, were obtained.

reactant | 1-methyl-3-hydroxy-4-acetyl-6,6-dimethyl-6H-dibenzo-[b,d]-pyran | 4.3 millimols, 1.2 gm | CC1=CC(=C(C=2OC(C3=C(C21)C=CC=C3)(C)C)C(C)=O)O | C18H18O3
reactant | diethyl oxalate | 8.3 millimols, 1.2 gm | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium | 45 millimols, 1.03 gm | [Na] | Na
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Carboxy-4-oxo-6,6,11-trimethyl-4H,6H-[2]-benzopyrano-[3,4-f]-[1]-benzopyran | C(=O)(O)C=1OC2=C(C(C1)=O)C1=C(C(=C2)C)C2=C(C(O1)(C)C)C=CC=C2 | C20H16O5
